Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p elective uterine artery embolization ___. 
 
Major Surgical or Invasive Procedure:
Uterine artery embolization: ___

 
History of Present Illness:
Ms. ___ is a pleasant ___ year old female with a PMHx 
significant for uterine fibroids and menorrhagia who is a direct 
admit for pain control and monitoring s/p elective uterine 
artery embolization ___. She began experiencing heavy 
periods since the age of ___. She had been using over 12 pads 
/day for her bleeding and developed iron deficiency anemia for 
which she takes ferrous sulfate.  She has not had the need for 
blood transfusions.  Her initial medical therapy was 
unsuccessful and included OCPs (insufficient), the Mirena IUD 
(expelled), and Depo Provera (breakthrough bleeding).  She 
started Lupron at the beginning of ___ and reported no bleeding 
for 2 months.  At the end of ___ to the present day, she 
is on norethindrone and Lupron and experiences menstrual 
bleeding which now only requires ___ pads / day.  She has a mild 
pelvic pressure that she describes as bearable.  No urinary 
frequency or incontinence. She has constipation, attributed to 
the ferrous sulfate, treated with Colace. 

She had two endometrial biopsies last year, both reported as 
negative. An ultrasound from ___ shows multiple mural 
fibroids, the largest measuring up to 5 cm.  A pelvic MRI 
___ showed multiple T2 hypointense lesions within the 
uterus lying in intramural, subserosal and submucosal locations.

After discussions with the Interventional Radiology team, she 
elected to have an uterine artery embolization as a treatment 
for her uterine fibroids.
During the procedure on ___, she had both uterine ateries 
emobolized as well as the right ovarian artery.  She recieved 
nitro and IV toradol intraoperatively. On arrival to the floor 
she is having abdominal pain, although not severe.    
   
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  All other 10-system 
review negative in detail.  

 
Past Medical History:
- Hypertension
- Hypercholesterolemia
- Uterine fibroids

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.3 63 173/66 18 100% on RA
General: nad, nodding off throughout my interview  
CV:  RRR, no m/r/g 
Lungs:  CTA bilaterally, no wheezes, rales or rhonchi
Abdomen: soft, tenderness to palpation in the lower abdominal 
quandrants, no rebound or guarding
Ext: 2+ dp and pt pulses   

DISCHARGE PHYSICAL EXAM:
VS: tmax 97.8 tcur 97.7 62 153/65 16 100RA
Gen: NAD, A0x3
HEENT: sclera anicteric, EOMI, PERRL, mucous membranes moist
NECK: No adenopathy, no JVD, supple
CV: regular rhythm and rate, no murmurs, rubs or gallops
PULM: clear to auscultation bilaterally
ABD: soft, tenderness to palpation in the lower abdominal 
EXT: warm and well perfused without edema, 2+ DP pulses 
bilaterally
NEURO: CN II-XII grossly intact

 
Pertinent Results:
___ 09:45AM   WBC-4.3 RBC-4.47 HGB-13.6# HCT-39.2 MCV-88 
MCH-30.3# MCHC-34.6# RDW-12.1
___ 09:45AM   PLT COUNT-344
___ 09:45AM   ___
Radiology Report UTERINE EMBO Study Date of ___ 12:03 ___ - 
IMPRESSION: Successful bilateral uterine and right ovarian 
artery embolization using a total of 2 vials of 500 to 700 
micron Embospheres.  

 
Brief Hospital Course:
ASSESSMENT AND PLAN:
Ms. ___ is a ___ yo female with a h/o uterine fibroids and 
menorrhagia who is a direct admit after elective uterine artery 
embolization ___.   

#s/p uterine artery embolization ___:  Per ___ usual protcol 
is to have a PCA pump and foley until tomorrow AM. Transition to 
PO percoset and ibuprofen.  Post-cath check was normal.
- d/c PCA pump and foley in the AM ___
- dispo: transition to oral percocet and ibuprofen for pain 
control

#HTN:
- cont lisinopril and HCTZ

#HLD:
- cont simvastatin 

FEN: clear liquids (advance as tolerated to full), IVF x 2L 
overnight, replete electrolytes  
PPX: HSQ 
ACCESS: PIV  
CODE: Full 
COMMUNICATION: Husband   
DISPO: ___ for now
CONSULTS: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Norethindrone-Estradiol 1 TAB PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Simvastatin 20 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. MedroxyPROGESTERone Acetate 20 mg PO DAILY 
8. Leuprolide Acetate 3.75 mg IM Q1MO 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. Norethindrone-Estradiol 1 TAB PO DAILY 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
Duration: 10 Days 
8. Ibuprofen 600 mg PO Q8H:PRN pain Duration: 10 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic uterine fibroid, s/p uterine artery embolization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___. You were 
admitted to the hospital for uterine artery embolization, a 
procedure to destroy a painful uterine fibroid. You tolerated 
the procedure well, but were kept for 2 nights to ensure no 
complications from the arterial access point and the procedure 
itself. You suffered some nausea and vomiting from the pain 
medications, which resolved with ondansetron, an anti-nausea 
drug. You were tolerating oral intake without nausea or vomiting 
at your discharge.

You were transitioned to oral pain medications and sent home.

Please follow up with your gynecologist and continue to take all 
of your medications as prescribed.
 
Followup Instructions:
___